US08227485B2
2-[3-(methylamino)-3-oxopropyl]-N,N-bis(3-methylbutyl)-1-(3-piperidin-1-ylpropyl)-1H-benzimidazole-6-carboxamide hydrochloride
TBTU (67 mg, 1 eq) and diisopropylethylamine (70 μL, 2 eq) are successively added to a solution of N-methylsuccinimic acid (26 mg, 1 eq) in DMF (1 ml). After stirring for 30 minutes at ambient temperature, a solution of 4-amino-N,N-bis(3-methylbutyl)-3-[(3-piperidin-1-ylpropyl)amino]benzamide (66 mg) in DMF (1 ml) is added to the mixture. The mixture is stirred for 15 hours at a temperature of approximately 20° C. then diluted in ethyl acetate (10 ml) and a saturated aqueous solution of sodium hydrogen carbonate (4 ml) is added. After decantation and extractions, the combined organic phases are washed with salt water, dried over Na2SO4 and concentrated under reduced pressure at 40° C. The oil thus obtained is solubilized in acetic acid (2 ml). The mixture is heated at 100° C. for 18 hours then cooled down to ambient temperature and concentrated under reduced pressure at 40° C. A saturated aqueous solution of sodium hydrogen carbonate is added to the residue obtained dissolved in dichloromethane. After decantation and extractions, the combined organic phases are washed with salt water, dried over Na2SO4 and concentrated under reduced pressure. Purification of the residue obtained by flash chromatography on silica gel (eluent: dichloromethane 100% to dichloromethane/methanol 85:15) produces the expected compound in the form of the free base. The corresponding hydrochloride salt is formed by the addition of a 1N solution of hydrochloric acid in diethyl ether. The precipitate obtained is filtered and dried in order to produce the expected monohydrochloride compound (64 mg, 54% yield).

reactant | TBTU | 67 mg, 1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | 70 μL, 2 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-amino-N,N-bis(3-methylbutyl)-3-[(3-piperidin-1-ylpropyl)amino]benzamide | 66 mg | NC1=C(C=C(C(=O)N(CCC(C)C)CCC(C)C)C=C1)NCCCN1CCCCC1 | C25H44N4O
reactant | sodium hydrogen carbonate | 4 ml | C(O)([O-])=O.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2-[3-(methylamino)-3-oxopropyl]-N,N-bis(3-methylbutyl)-1-(3-piperidin-1-ylpropyl)-1H-benzimidazole-6-carboxamide hydrochloride | Cl.CNC(CCC1=NC2=C(N1CCCN1CCCCC1)C=C(C=C2)C(=O)N(CCC(C)C)CCC(C)C)=O | InChI=1S/C30H49N5O2.ClH/c1-23(2)14-20-34(21-15-24(3)4)30(37)25-10-11-26-27(22-25)35(28(32-26)12-13-29(36)31-5)19-9-18-33-16-7-6-8-17-33;/h10-11,22-24H,6-9,12-21H2,1-5H3,(H,31,36);1H
